US04002749
A. 1-(2-Thiazolin-2-yl)-indolin-2-one
To a solution of 4.0 g (0.03 mole) of oxindole in 125 ml dry glyme there is added 1.4 g (0.03 mole) of sodium hydride (50% oil dispersion) and the mixture is stirred at room temperature for 3 hours. Then 3.6 g (0.3 mole) of 2-chloroethyl isothiocyanate in 5 ml of dry glyme is added and the mixture is refluxed overnight. After evaporation of the solvent in vacuo, the residue is chromatographed on an Alumina Act. IV column. Elution with ethyl ether yields the product which is crystallized from ethyl ether to yield 0.6 g, m.p. 97°-99°.

reactant | oxindole | 0.03 mole, 4.0 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | sodium hydride | 0.03 mole, 1.4 g | [H-].[Na+]
reactant | 2-chloroethyl isothiocyanate | 0.3 mole, 3.6 g | ClCCN=C=S | C3H4ClNS
solvent | glyme | 125 ml | C(OC)COC | C4H10O2
solvent | glyme | 5 ml | C(OC)COC | C4H10O2
product | 1-(2-Thiazolin-2-yl)-indolin-2-one | S1C(=NCC1)N1C(CC2=CC=CC=C12)=O | C11H10N2OS
